US04587048
2-[4-(benzthiazol-2-yldithio)-2-oxo-3-phenoxyacetaminoazetidin-1 -yl]-3-methyl-3-butenoic acid diphenylmethyl ester
400 mg of 40% aqueous p-toluenesulphonic acid and 1.55 g (17 mmol) of isopropyl nitrite are added to a solution of 4.0 g (8 mmol) of 3-methyl-2-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3.2.0]hept-2-en-6-yl)-3-butenoic acid diphenylmethyl ester in 12 ml of methylene chloride and the solution is stirred for 6 hours at room temperature with the exclusion of light. A solution of 1.67 g (10 mmol) of 2-mercaptobenzthiazole in 30 ml of ethyl acetate is then added dropwise in the course of 30 minutes and the whole is stirred for a further 12 hours at room temperature. After this period, the thin layer chromatogram indicates almost complete conversion to the title compound. Working up is carried out in a manner analogous to that described in Example 2 (a). The title compound has a melting point of 140°-141°.

reactant | p-toluenesulphonic acid | 400 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | isopropyl nitrite | 17 mmol, 1.55 g | N(=O)OC(C)C | C3H7NO2
reactant | 3-methyl-2-(3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3.2.0]hept-2-en-6-yl)-3-butenoic acid diphenylmethyl ester | 8 mmol, 4.0 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(C(=C)C)N1C2SC(=NC2C1=O)COC1=CC=CC=C1)=O | C29H26N2O4S
reactant | 2-mercaptobenzthiazole | 10 mmol, 1.67 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 12 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(benzthiazol-2-yldithio)-2-oxo-3-phenoxyacetaminoazetidin-1 -yl]-3-methyl-3-butenoic acid diphenylmethyl ester | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(C(C(=C)C)N1C(C(C1SSC=1SC2=C(N1)C=CC=C2)(OC2=CC=CC=C2)NC(=O)C)=O)=O | C36H31N3O5S3
